US08470894B2
1-(3-(Di(tert-butyldimethylsiloxy)-methyl-silanyl)-propoxy)-3-(2-(2-(2-hydroxy-ethoxy)-ethoxy)-ethylamino)-propan-2-ol (FIG. 6).
2-(2-(2-Amino-ethoxy)-ethoxy)-ethanol (3.52 g) and ethanol (40 mL) were charged to a 100 mL RB flask equipped with a magnetic stirrer. The mixture was stirred and heated to 70° C. 1,5-Di(tert-butyl)-3-(oxiranylmethylpropyl)-1,1,3,5,5-Pentamethyltrisiloxane (2.0 g) mixed with ethanol (10 mL) was placed in an addition funnel and added dropwise to the flask. The mixture was stirred and maintained at 70° C. for an additional 4 hours. Reaction progress was monitored by NMR spectroscopy. Upon reaction completion, the ethanol was removed by rotary evaporation, and the mixture was distilled under vacuum to remove impurities and excess raw material.

reactant | 2-(2-(2-Amino-ethoxy)-ethoxy)-ethanol | 3.52 g | NCCOCCOCCO | C6H15NO3
reactant | 1,5-Di(tert-butyl)-3-(oxiranylmethylpropyl)-1,1,3,5,5-Pentamethyltrisiloxane | 2.0 g | C(C)(C)(C)[Si](O[Si](O[Si](C)(C)C(C)(C)C)(C)C(CC)CC1OC1)(C)C | C19H44O3Si3
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | ethanol | 40 mL | C(C)O | C2H6O
product | 1-(3-(Di(tert-butyldimethylsiloxy)-methyl-silanyl)-propoxy)-3-(2-(2-(2-hydroxy-ethoxy)-ethoxy)-ethylamino)-propan-2-ol | O([Si](C)(C)C(C)(C)C)[Si](CCCOCC(CNCCOCCOCCO)O)(C)O[Si](C)(C)C(C)(C)C | C25H59NO7Si3
